US09102621B2
5-Chloro-6-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)pyridine-3-diazonium tetrafluoroborate
An aqueous solution of tetrafluoroboric acid (48% weight, 1.86 mL, 14.2 mmol) was added to a solution of 5-chloro-6-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)pyridin-3-amine (Preparation 52, 2.0 g, 6.79 mmol) in ethanol (3 mL) at −5° C. Isopentyl nitrite (960 μL, 7.0 mmol) was added dropwise and the reaction mixture was stirred for 30 minutes at −5° C. The suspension was filtered and the solid was washed with cold ethanol and diethyl ether to afford the title compound as a pink solid (728 mg, 27%).

reactant | tetrafluoroboric acid | 14.2 mmol, 1.86 mL | F[B-](F)(F)F.[H+]
reactant | 5-chloro-6-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)pyridin-3-amine | 6.79 mmol, 2.0 g | ClC=1C=C(C=NC1OC(C(F)(F)F)C(F)(F)F)N | C8H5ClF6N2O
reactant | Isopentyl nitrite | 7.0 mmol, 960 μL | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 5-Chloro-6-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)pyridine-3-diazonium tetrafluoroborate | 728 mg, 27% | F[B-](F)(F)F.ClC=1C=C(C=NC1OC(C(F)(F)F)C(F)(F)F)[N+]#N | InChI=1S/C8H3ClF6N3O.BF4/c9-4-1-3(18-16)2-17-5(4)19-6(7(10,11)12)8(13,14)15;2-1(3,4)5/h1-2,6H;/q+1;-1
